US07087616B2
Ethyl [(4-bromo-2-pyrimidinyl)thio]acetate
Under argon, 52.5 g (0.20 mol) of triphenylphosphine are initially charged in 600 ml of dioxane, and 35.6 g (0.20 mol) of N-bromosuccinimide are added a little at a time, with cooling. The mixture is stirred at RT for 30 min. 8.6 g (0.04 mol) of ethyl [(4-hydroxy-2-pyrimidinyl)thio]acetate are then added and the mixture is heated at reflux for 45 min. A total of 2 l of water are added to the mixture, which is then extracted 3× with in each case 300 ml of methyl tert-butyl ketone. The organic phase is washed 2× with water and 1× with concentrated NaCl solution, dried over magnesium sulphate and concentrated. The residue is stirred in 60 ml of methyl tert-butyl ketone and filtered off. The mother liquor is concentrated and the residue is purified by silica gel chromatography (dichloromethane).

reactant | triphenylphosphine | 0.20 mol, 52.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.20 mol, 35.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl [(4-hydroxy-2-pyrimidinyl)thio]acetate | 0.04 mol, 8.6 g | OC1=NC(=NC=C1)SCC(=O)OCC | C8H10N2O3S
reactant | water | 2 l | O | H2O
solvent | dioxane | 600 ml | O1CCOCC1 | C4H8O2
product | Ethyl [(4-bromo-2-pyrimidinyl)thio]acetate | BrC1=NC(=NC=C1)SCC(=O)OCC | C8H9BrN2O2S
